US07202381B2
A. {1-(4-tert-butoxy-benzyl)-2-oxo-2-[3-(4-phenyl-1H-imidazol-2-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-ethyl}-carbamic acid 9H-fluoren-9-ylmethyl ester
3-(4-tert-Butoxy-phenyl)-2-(9H-fluoren-9-ylmethoxycarbonylamino)-propionic acid (1.93 g, 4.2 mmol) was dissolved in dichloromethane (100 mL), cooled to 0° C., then N-methyl-morpholine (0.42 g, 4.2 mmol) was added neat followed by isobutyl chloroformate (0.52 mL, 4 mmol). After 1.25 hour 3-(4-phenyl-1H-imidazol-2-yl)-1,2,3,4-tetrahydro-isoquinoline (1.10 g, 4 mmol) was added neat and the reaction was allowed to warm to room temperature. After 16 hours the reaction was extracted with water, then saturated NaHCO3, dried over Na2SO4, filtered, and concentrated under reduced pressure to give 2.53 g (88%) of brown foam desired product {1-(4-tert-butoxy-benzyl)-2-oxo-2-[3-(4-phenyl-1H-imidazol-2-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-ethyl}-carbamic acid 9H-fluoren-9-ylmethyl ester, which was used without further purification. (LC/MS; Measured MW (MH+): 717)

reactant | 3-(4-tert-Butoxy-phenyl)-2-(9H-fluoren-9-ylmethoxycarbonylamino)-propionic acid | 4.2 mmol, 1.93 g | C(C)(C)(C)OC1=CC=C(C=C1)CC(C(=O)O)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C28H29NO5
reactant | N-methyl-morpholine | 4.2 mmol, 0.42 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 4 mmol, 0.52 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 3-(4-phenyl-1H-imidazol-2-yl)-1,2,3,4-tetrahydro-isoquinoline | 4 mmol, 1.10 g | C1(=CC=CC=C1)C=1N=C(NC1)C1NCC2=CC=CC=C2C1 | C18H17N3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | {1-(4-tert-butoxy-benzyl)-2-oxo-2-[3-(4-phenyl-1H-imidazol-2-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-ethyl}-carbamic acid 9H-fluoren-9-ylmethyl ester | 2.53 g, 88% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NC(C(N1CC2=CC=CC=C2CC1C=1NC=C(N1)C1=CC=CC=C1)=O)CC1=CC=C(C=C1)OC(C)(C)C)=O | C46H44N4O4
